US04585772
10-Nitro-6-oxo-7-allyl-2,3,4,5,6,7-hexahydropyrimido-[1,2-c]-quinazoline
Preparation analogously to Example 29 from 10-nitro-6-oxo-2,3,4,5,6,7-hexahydropyrimido-[1,2-c]-quinazoline and allyl bromide.

reactant | 10-nitro-6-oxo-2,3,4,5,6,7-hexahydropyrimido-[1,2-c]-quinazoline | [N+](=O)([O-])C1=CC=2C=3N(C(NC2C=C1)=O)CCCN3 | C11H10N4O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 10-Nitro-6-oxo-7-allyl-2,3,4,5,6,7-hexahydropyrimido-[1,2-c]-quinazoline | [N+](=O)([O-])C1=CC=2C=3N(C(N(C2C=C1)CC=C)=O)CCCN3 | C14H14N4O3
